US06462036B1
A mixture of 4-[3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenoxy]butyric acid (0.24 g) was stirred in dry tetrahydrofuran (5 ml) at ambient temperature and triethylamine (0.20 ml) was added. The mixture was stirred at ambient temperature for 15 minutes then cooled in an ice bath and then methyl chloroformate (0.2 ml) was added. The mixture was stirred at ice bath temperature for 1 hour and then concentrated ammonia solution (SG 0.880, 5 ml) was added dropwise by pipette. The mixture was stirred at 0° C. for 5 minutes and then evaporated to dryness under reduced pressure. The residue was purified by flash column chromatography on silica using dichloromethane/IMS/triethylamine (8:1:1) as the mobile phase. Appropriate fractions were combined and evaporated to give 4-[3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenoxy]butyramide, m.p. 200-202° C.

reactant | 4-[3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenoxy]butyric acid | 0.24 g | N1N=C(C2=C1C1=CC=CC=C1C2)C=2C=C(OCCCC(=O)O)C=CC2 | C20H18N2O3
reactant | triethylamine | 0.20 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.2 ml | ClC(=O)OC | C2H3ClO2
reactant | ammonia | 5 ml | N | H3N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenoxy]butyramide | N1N=C(C2=C1C1=CC=CC=C1C2)C=2C=C(OCCCC(=O)N)C=CC2 | C20H19N3O2
